US04556630
2-Amino-4-tert-octylphenol was refluxed by heating in a mixture of acetonitrile and acetic anhydride to synthesize Intermediate B having the melting point of 176° to 177° C. in a yield of 70%. 26.3 g of 2-acetamido-4-tert-octylphenol thus obtained was dissolved in 200 ml of chloroform, the solution was cooled to 0° to 5° C. to which was added 8.1 g of sulfur monochloride (S2Cl2) and the mixture was stirred for 2 hours. Water was added to the reaction solution, and the chloroform layer was thoroughly washed with water and then concentrated. The residue was dissolved in 50 ml of dimethylformamide without purification and isolation, to the solution were added 16.6 g of anhydrous potassium carbonate and 23 g of butyl bromide and the mixture was heated at 100° C. for 3 hours. After the reaction, 300 ml of ethyl acetate and 200 ml of water were added to the reaction mixture and extracted. The ethyl acetate layer was concentrated and the residue was crystallized from acetonitrile to obtain 15.8 g of Intermediate D having the melting point of 150° to 153° C. 15.8 g of Intermediate D thus obtained was dissolved in a mixture of 100 ml of ethanol and 10 ml of 6N hydrochloric acid and the mixture was stirred at 40° to 50° C. for 1 hour whereby the acetyl group of Intermediate D was quantitatively hydrolized. The reaction solution was poured into ice water and the precipitate thus formed was collected by filtration and dried to obtain 14 g of Intermediate E. 14 g of Intermediate E thus obtained was dissolved in 100 ml of pyridine, to the solution was added 5.7 g of methanesulfonyl chloride in a nitrogen atmosphere and the mixture was stirred at room temperature for 2 hours. The reaction solution was poured into ice water, the oily product thus precipitated was separated by decantation and dissolved in 200 ml of ethyl acetate. The solution was thoroughly washed with an aqueous acidic solution of acetic acid. The ethyl acetate was concentrated and the residue was crystallized from a mixture of hexane and ethyl acetate to obtain 9.3 g of Intermediate F having a melting point of 102° to 103° C.

reactant | 2-Amino-4-tert-octylphenol | NC1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)O | C14H23NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-acetamido-4-tert-octylphenol | 26.3 g, yield of 70% | C(C)(=O)NC1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)O | C16H25NO2
